US04863959
4-Acetyl-2,6-dichloro-3-fluoroaniline
In 10 mL of toluene, 0.5 g of 4-acetyl-2-chloro-5-fluoroaniline and 0.42 g of N-chlorosuccinimide are heated at reflux for several hours until the reaction is complete. The mixture is filtered and the filter cake is washed with H2O. The filtrate of the original reaction mixture is concentrated to afford a precipitate which is collected and washed with H2O. The solids are combined to afford the crude title compound, which is used further as is.

reactant | 4-acetyl-2-chloro-5-fluoroaniline | 0.5 g | C(C)(=O)C1=CC(=C(N)C=C1F)Cl | C8H7ClFNO
reactant | N-chlorosuccinimide | 0.42 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Acetyl-2,6-dichloro-3-fluoroaniline | C(C)(=O)C1=C(C(=C(N)C(=C1)Cl)Cl)F | C8H6Cl2FNO
